US05521170
To a solution of 1-carboxymethyl-5-{4-[2-(2-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (220 mg), 2-dimethylaminoethanol (37 mg) and 4-dimethylaminopyridine (10 mg) in dichloromethane (5 ml) were added dicyclohexylcarbodiimide (102 mg) at ambient temperature and the mixture was stirred at the same temperature for 30 hours. The resulting mixture was washed with saturated sodium bicarbonate aqueous solution. Drying over magnesium sulfate, filtering and the removal of solvents afforded a crude product. The crude product was purified by silica gel column (3% methanol in chloroform). The solvent was evaporated in vacuo and the residue was solidified with diethyl ether to give 1-[(2-dimethylaminoethoxy)carbonylmethyl]-5-{4-[2-(2-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (86 mg) as a white powder.

reactant | 1-carboxymethyl-5-{4-[2-(2-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 220 mg | C(=O)(O)CN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=C(C=CC=C2)C)=O)=O)=O | C32H27N3O5
reactant | 2-dimethylaminoethanol | 37 mg | CN(CCO)C | C4H11NO
reactant | dicyclohexylcarbodiimide | 102 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-[(2-dimethylaminoethoxy)carbonylmethyl]-5-{4-[2-(2-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 86 mg | CN(CCOC(=O)CN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=C(C=CC=C2)C)=O)=O)=O)C | C36H36N4O5
